US07825253B2
N5-(3,5-Difluoro-benzyl)-N2-(2-methyl-benzofuran-7-yl)-quinoline-2,5-diamine
The title compound, MS: m/e=416.4 (M+H+), was prepared from 5-nitro-2-chloroquinoline, (2-methyl-1-benzofuran-7-yl)amine and 3,5-difluorobenzaldehyde as described in example 26.

reactant | 5-nitro-2-chloroquinoline | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClN2O2
reactant | (2-methyl-1-benzofuran-7-yl)amine | CC=1OC2=C(C1)C=CC=C2N | C9H9NO
reactant | 3,5-difluorobenzaldehyde | FC=1C=C(C=O)C=C(C1)F | C7H4F2O
product | N5-(3,5-Difluoro-benzyl)-N2-(2-methyl-benzofuran-7-yl)-quinoline-2,5-diamine | FC=1C=C(CNC=2C=3C=CC(=NC3C=CC2)NC2=CC=CC=3C=C(OC32)C)C=C(C1)F | C25H19F2N3O
